US05120752
A solution of 3-hydroxybenzaldehyde (1.27 g, 10.4 mmol), tetrahydro-2-(2-(4-bromophenoxy)ethoxy)-2H-pyran (6.26 g, 20.8 mmol), potassium carbonate (2.23 g, 16.12 mmol) and copper (330 mg, 5.2 mmol) in pyridine (10 mL) was refluxed for 5 days. It was then cooled to r.t., filtered through Celite, diluted with ethylacetate (50 mL), and washed with H2O (3×40 mL). The organic was dried with MgSO4 and concentrated. The resulting residue was chromatographed (silica gel, ether:hexanes, 2:3) to afford tetrahydro-2-(2-(4-(3-formylphenoxy)phenoxy)ethoxy)-2H-pyran (3.09 g, 87%) as a pale yellow oil.

reactant | 3-hydroxybenzaldehyde | 10.4 mmol, 1.27 g | OC=1C=C(C=O)C=CC1 | C7H6O2
reactant | tetrahydro-2-(2-(4-bromophenoxy)ethoxy)-2H-pyran | 20.8 mmol, 6.26 g | BrC1=CC=C(OCCOC2OCCCC2)C=C1 | C13H17BrO3
reactant | potassium carbonate | 16.12 mmol, 2.23 g | C([O-])([O-])=O.[K+].[K+]
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
catalyst | copper | 5.2 mmol, 330 mg | [Cu] | Cu
product | tetrahydro-2-(2-(4-(3-formylphenoxy)phenoxy)ethoxy)-2H-pyran | 3.09 g, 87% | C(=O)C=1C=C(OC2=CC=C(OCCOC3OCCCC3)C=C2)C=CC1 | C20H22O5
